US08217027B2
Ethyl 3-(4-fluoro-3-methoxyphenyl)propanoate (1.019 g, 4.50 mmol) was dissolved in THF (22.52 ml) under nitrogen. A solution of lithium aluminum hydride (4.50 ml, 9.01 mmol) was added slowly. TLC shows reaction done after about 10 min. Water (0.35 mL) was slowed added and then the mixture was stirred for 30 min. 1 N NaOH (1.05 mL) was added and the reaction was stirred for 30 min. Additional water was added (0.35 mL) and the solution was stirred and then filtered. The cake was washed with ether and then rotovapped. Ether was added. The solution was dried over magnesium sulfate and then filtered and rotovapped. The solution was passed through silica gel with methylene chloride then ethyl acetate then rotovapped to give 3-(4-fluoro-3-methoxyphenyl)propan-1-ol (0.753 g, 4.09 mmol, 91% yield) as a colorless oil: 1H NMR (400 MHz, CDCl3). δ ppm 6.98 (dd, 1H), 6.80 (dd, 1H), 6.71 (ddd, 1H), 3.89 (s, 3H), 3.68 (t, 2H), 2.68 (t, 2H), 1.94-1.82 (m, 2H), 1.33 (s, 1H)

reactant | Ethyl 3-(4-fluoro-3-methoxyphenyl)propanoate | 4.50 mmol, 1.019 g | FC1=C(C=C(C=C1)CCC(=O)OCC)OC | C12H15FO3
reactant | lithium aluminum hydride | 9.01 mmol, 4.50 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.35 mL | O | H2O
reactant | NaOH | 1 N, 1.05 mL | [OH-].[Na+]
solvent | THF | 22.52 ml | C1CCOC1 | C4H8O
product | 3-(4-fluoro-3-methoxyphenyl)propan-1-ol | 4.09 mmol, 0.753 g, 91% yield | FC1=C(C=C(C=C1)CCCO)OC | C10H13FO2
